US06521666B1
N-(2,6-dichlorobenzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine methyl ester (a mixture of two diastereomers) was hydrolyzed with LiOH as described for in Example 1-5) to yield N-(2,6-dichlorobenzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine (a mixture of two diastereomers). The mixture was taken up in CH2Cl2 and the solid was collected by filtration, washed with CH2Cl2, and dried to yield one diastereomer of N-(2,6-dichlorobenzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine (80 mg) (152A). ESMS: m/z 476 (MH+), 498 (M++Na), 474 (M−H)−. 1H-NMR (DMSO-d6): δ2.41 (s, 3H), 2.97 (m, 1H), 3.2 (dd, 1H), 4.72 (m, 1H), 7.32 (m, 3H), 7.4 (m, 5H), 7.6-7.7 (m, 2H), 8.0 (d, 1H), 9.15 (d, 1H). The filtrate was evaporated and the residue was crystallized from EtOAc/hexane to afford the other diastereomer of N-(2,6-dichloro-benzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine (44 mg) (152C). ESMS: m/z 476 (MH+), 498 (M++Na), 474 (M−H)−. −H-NMR (DMSO-d6): δ2.43 (s, 3H), 2.98 (m, 1H), 3.22 (m, 1H), 4.74 (m, 1H), 7.32 (m, 3H), 7.4 (m, 5H), 7.6-7.7 (m, 2H), 8.0 (d, 1H), 9.15 (d, 1H).

reactant | N-(2,6-dichlorobenzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)C)=O | C24H21Cl2NO4S
reactant | LiOH | [Li+].[OH-]
product | N-(2,6-dichlorobenzoyl)-4-[2-(methylsulfinyl)phenyl]-L-phenylalanine | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)C)C(=O)O)C(=CC=C1)Cl | C23H19Cl2NO4S
